Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, diarrhea 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ is a ___ w/ recent hospitalization ___ to 
___ for perforated appendicitis managed non-operatively w/ ___ 
drain placement who is presenting here to the ED w/ worsening 
abd pain and diarrhea. After d/c he was initially doing well, 
his ___ cx's resulted growing MDR E. coli and Shigella. The E. 
coli was resistant to augmentin, which he was d/c'd on, and was 
thus
switched to bactrim this past ___. Also on ___ he developed 
some worsening abd pain, and yesterday night started having 
watery diarrhea. He has had persistent output from his ___ drain, 
fluctuating from ___ ml/day. He is tolerating PO w/o 
difficulty. He denies any f/c/s, lightheadedness and/or
dizziness, chest pain, SOB, h/a's, blurry vision, BRBPR, melena, 
n/b difficulty urinating, myalgias, arthralgias, or skin 
changes; ROS is o/w -ve except as noted before. Here labs showed 
WBC 16.2, Cr 1.4, and lactate 2.2, and a CT A/P showed interval 
decrease in RLQ abscess cavity (drained by ___ pigtail), but also 
colts of ascending colon, for which we were consulted.

 
Past Medical History:
HLD
 
Social History:
___
Family History:
no fam hx of colon CA or IBD

 
Physical Exam:
Admission Physical Exam:

GEN: pleasant, NAD, interactive, non toxic appearing 
EENT: PERRL, EOMI, sclerae anicteric, moist mucous membranes, no
ulcers / lesions / thrush  
NECK:  supple
CARD: RRR, normal S1, S2, no murmurs / rubs / gallops  
PULM: clear to auscultation bilaterally w/o wheezes / rhonchi /
rales  
BACK: no focal tenderness, no costovertebral angle tenderness  
ABDM: erythema surrounding RLQ drain, somewhat tender to
palpation around that site, no peritoneal signs  
MSK: no joint swelling or erythema  
EXTR: warm and well perfused, no edema, 2+ DP pulses palpable
bilaterally  
LYMPH: no cervical lymphadenopathy  
SKIN: no rashes, no jaundice  
NEURO: awake, alert and oriented x3, CN ___ intact, ___ 
strength
bil, reflexes 1+ bilaterally, normal sensitivity  
PSYCH: non-anxious, normal affect 
ACCESS:  PIV

Discharge Physical Exam:
VS: T: 99.2 PO BP: 124/76 L Lying HR: 93 RR: 18 O2: 96% Ra 
GEN: A+Ox3, NAD
HEENT: normocephalic, atraumatic
CV: RRR
PULM: no respiratory distress, breathing comfortably on room air
ABD: soft, non-distended, non-tender to palpation.  RLQ prior ___ 
drain site with no s/s infection, gauze dressing cdi
EXT: no edema b/l
 
Pertinent Results:
IMAGING:

___: CT Abdomen/Pelvis:
1. Right frontal lateral approach pigtail catheter terminates in 
the right 
lower quadrant, with substantial interval decrease in size of 
previously seen abscess, which is now collapsed around the 
catheter tip.  No new abscess. 
2. Wall thickening of the ascending colon and at the hepatic 
flexure is 
compatible with colitis of an infectious or inflammatory 
etiology. 

___: CXR (PA & LAT):
  
Patchy basilar opacities suggesting atelectasis.  No definite 
evidence of 
pneumonia. 

LABS:

___ 08:18PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:18PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:18PM URINE  RBC-4* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 08:18PM URINE  MUCOUS-RARE*
___ 03:44PM   ALT(SGPT)-64* AST(SGOT)-31 ALK PHOS-133* TOT 
BILI-0.3
___ 03:44PM   ALBUMIN-4.4
___ 03:44PM   ___ PTT-28.4 ___
___ 03:13PM   LACTATE-2.2*
___ 03:05PM   GLUCOSE-99 UREA N-23* CREAT-1.4* SODIUM-140 
POTASSIUM-5.0 CHLORIDE-100 TOTAL CO2-25 ANION GAP-15
___ 03:05PM   ALT(SGPT)-68* AST(SGOT)-36 ALK PHOS-140* TOT 
BILI-0.4
___ 03:05PM   ALBUMIN-4.5 CALCIUM-9.9 PHOSPHATE-4.1 
MAGNESIUM-2.6
___ 03:05PM   WBC-16.2* RBC-4.36* HGB-14.1 HCT-43.3 MCV-99* 
MCH-32.3* MCHC-32.6 RDW-14.3 RDWSD-52.3*
___ 03:05PM   NEUTS-90.3* LYMPHS-4.2* MONOS-4.8* EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-14.66* AbsLymp-0.68* AbsMono-0.78 
AbsEos-0.01* AbsBaso-0.03
___ 03:05PM   PLT COUNT-377
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M w/ recent hospitalization for 
perforated appendicitis managed non-operatively w/ ___ drain 
placement who is presented to ___ this admission with 
worsening abdominal pain and diarrhea.  After first hospital 
discharge, his ___ cultures resulted growing MDR E. coli and 
Shigella. The E. coli was
resistant to augmentin, which he was d/c'd on, and was thus 
switched to Bactrim. On this admission, labs showed WBC 16.2, Cr 
1.4, and lactate 2.2, and a CT A/P showed interval decrease in 
RLQ abscess cavity.  Stool studies and RPR were sent.  He was 
started on Bactrim DS 2 tabs PO BID + metronidazole 500 mg PO 
TID.  ID was consulted and recommended extending the antibiotic 
duration to 4 days beyond drain removal. Stool study later came 
back indicating that shigella was resistant to Bactrim.  Given 
that there was shigella in the ___ fluid collection which was 
sensitive to Bactrim, the patient remained on Bactrim, 
metronidazole and was also started on cefpodoxime.  

The patient's bowel movements became more formed during his 
hospital stay.  His ___ drain was removed on ___ as there was 
no fluid coming from the drain. At the time of discharge, the 
patient was doing well, afebrile and hemodynamically stable.  
The patient was tolerating a diet, ambulating, voiding without 
assistance, and pain was well controlled.  The patient received 
discharge teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
3. Minocycline 50 mg PO Q24H 
4. Simvastatin 20 mg PO QPM 
5. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Cefpodoxime Proxetil 400 mg PO/NG Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth every twelve (12) 
hours Disp #*18 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO TID 
Take with food  
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*13 Tablet Refills:*0 
4.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*18 Tablet Refills:*0 
5.  Simvastatin 20 mg PO QPM  
6. HELD- Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  This 
medication was held. Do not restart Emtricitabine-Tenofovir 
(Truvada) until Your creatinine level is 1.2 or less  
7. HELD- Minocycline 50 mg PO Q24H  This medication was held. Do 
not restart Minocycline until your course of oral antibiotics 
has completed 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Colitis of ascending colon

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with abdominal pain and 
diarrhea and were found to have inflammation of part of your 
colon. The fluid from your abscess grew out bacteria including 
Escherichia coli, Shigella sonnei and Bacteroides fragilis.  You 
were initially kept on the antibiotic, Bactrim (sulfamethoxazole 
and trimethoprim), to treat both the Shigella and E. coli.  You 
were also started on another antibiotic, called Flagyl 
(metronidazole) to treat the Bacteroides.  A stool sample was 
sent while you were in the hospital which again showed shigella, 
but the shigella was resistant to Bactrim.  Therefore, you were 
started on a new antibiotic, called Cefpodoxime to treat the 
shigella.   Your abdominal drain was ultimately removed and you 
will continue on oral antibiotics for an additional 4 (four) 
days.

You are now ready to be discharged home.  Please note the 
following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

 
Followup Instructions:
___